* Auto-generated by tools/run_h1_falsifier.py
* case_id=fa_004
* attack_class=uvlo_chatter_same_window
* polarity_mode=same
* voltage_mv=100
* voc_a_mv=100
* voc_b_mv=100
* ramp_mvps=10
* ratio_b_to_a=1
* t_stop_s=18.0
* tran_step_s=0.001
* V_HANDOFF=0.8
* V_HANDOFF_FALL=0.7
* R_LOAD=100k
* C_STORE=1.12208e-05
* T_COLLAPSE_A=10.5857
* T_RECOVER_A=15.0107
* COLLAPSE_SCALE_A=0.103216
* T_COLLAPSE_B=10.7453
* T_RECOVER_B=15.1652
* COLLAPSE_SCALE_B=0.0338585
* T_COLLAPSE_EDGE=0.02
* VSTART_DEAD=0.0046526
* SCOUT_R=178371
* SCOUT_C=3.76602e-09
* G_SCOUT_CTRL=3.83697e-08
* Blind-merge ablation: same scout scaffold, but packet isolation removed before startup.

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/source_pair_models.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/startup_cells.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/packet_scout_blocks.inc"

.param VLEVEL=100m
.param VOC_A=100m
.param VOC_B=100m
.param R_UNIT=1k
.param RATIO=1
.param R_A=998.158368
.param R_B=1070.144133
.param POL_A=1
.param POL_B=1
.param RAMP_MVPS=10
.param C_STORE=10u
.param R_LOAD=100meg
.param V_HANDOFF=1.2
.param V_HANDOFF_FALL=1.0
.param TSTOP=18.0

.param V_HANDOFF=0.8
.param V_HANDOFF_FALL=0.7
.param R_LOAD=100k
.param C_STORE=1.12208e-05
.param T_COLLAPSE_A=10.5857
.param T_RECOVER_A=15.0107
.param COLLAPSE_SCALE_A=0.103216
.param T_COLLAPSE_B=10.7453
.param T_RECOVER_B=15.1652
.param COLLAPSE_SCALE_B=0.0338585
.param T_COLLAPSE_EDGE=0.02
.param VSTART_DEAD=0.0046526
.param SCOUT_R=178371
.param SCOUT_C=3.76602e-09
.param G_SCOUT_CTRL=3.83697e-08

VMEAS_A src_a_p n_src_a_p 0
VMEAS_B src_b_p n_src_b_p 0
XSOURCES src_a_p n_src_a_n src_b_p n_src_b_n source_pair

BMON_A n_src_a 0 V = { V(n_src_a_p,n_src_a_n) }
BMON_B n_src_b 0 V = { V(n_src_b_p,n_src_b_n) }
RREF_A n_src_a_n 0 1g
RREF_B n_src_b_n 0 1g

XROUTE_A n_src_a_p n_src_a_n n_a_bus_p n_a_bus_n fw_router
XROUTE_B n_src_b_p n_src_b_n n_b_bus_p n_b_bus_n fw_router

VCTRL_MON n_store n_ctrl 0
XCORE n_a_bus_p n_a_bus_n n_b_bus_p n_b_bus_n n_store n_ctrl n_handoff blind_packet_merge_gate

CSTORE n_store 0 {C_STORE} ic=0
RLOAD n_store 0 {R_LOAD}

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/measurement_hooks.inc"

.tran 0.001 18.0 0 0.001
.end
